US05965539
M. 4-Nitro-2-naphthylbenzoyl-(S)-leucine methyl ester
This compound was prepared with the same method as for the preparation of the methionine derivative (section J) using 4-nitro-2-naphthylbenzoic acid, (S)-leucine methyl ester, EDCI and HOBT. 1H NMR (CDCl3) δ 8.34-8.39 (m, 1H), 8.25 (s, 1H), 8.18 (d, 8.6 Hz, 0.6H), 8.02 (d, 8.6 Hz, 0.4H), 7.91-8.00 (m, 2H), 7.62 (t, 7.0 Hz, 0.6H), 7.48-7.58 (m, 3H), 7.41 (t, 7.0 Hz, 1.4H), 5.71 (d, 7.9 Hz, 0.6H), 5.60 (d, 7.9 Hz, 0.4H), 4.29 (m, 1H), 3.57 (s, 1.7H), 3.52 (s, 1.3H), 1.05-1.11 (m, 0.5H), 0.88-0.97 (m, 0.7H), 0.69-0.78 (m, 0.5H), 0.41-0.59 (m, 7.0H), 0.19-0.26 (m, 0.6H).

reactant | methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | 4-nitro-2-naphthylbenzoic acid | [N+](=O)([O-])C1=CC(=CC2=CC=CC=C12)C1=C(C(=O)O)C=CC=C1 | C17H11NO4
reactant | (S)-leucine methyl ester | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | 4-Nitro-2-naphthylbenzoyl-(S)-leucine methyl ester | COC([C@@H](N(C(C1=CC=CC=C1)=O)C1=CC2=CC=CC=C2C(=C1)[N+](=O)[O-])CC(C)C)=O | C24H24N2O5
